US08278307B2
5-[5-(3-imidazol-1-yl-5-trifluoromethylphenylcarbamoyl)-2-methyl-phenylethynyl]-1-methyl-1H-imidazole-2-carboxylic acid amide
This was made as for example 2 using 5-ethynyl-1-methyl-1H-imidazole-2-carboxylic acid amide and N-(3-(1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-iodo-4-methylbenzamide: MS (M+H)+ 493.

reactant | 5-ethynyl-1-methyl-1H-imidazole-2-carboxylic acid amide | C(#C)C1=CN=C(N1C)C(=O)N | C7H7N3O
reactant | N-(3-(1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-iodo-4-methylbenzamide | N1(C=NC=C1)C=1C=C(C=C(C1)C(F)(F)F)NC(C1=CC(=C(C=C1)C)I)=O | C18H13F3IN3O
product | 5-[5-(3-imidazol-1-yl-5-trifluoromethylphenylcarbamoyl)-2-methyl-phenylethynyl]-1-methyl-1H-imidazole-2-carboxylic acid amide | N1(C=NC=C1)C=1C=C(C=C(C1)C(F)(F)F)NC(=O)C=1C=CC(=C(C1)C#CC1=CN=C(N1C)C(=O)N)C | C25H19F3N6O2
